US06083961
To a solution of 4-benzyloxy-1-methyl-2-methylamino-1H-benzimidazole (200 mg) in dimethylformamide (2 ml) was added sodium hydride (32.9 mg) under ice-cooling, and the mixture was stirred for 15 minutes. To the mixture was added methyl iodide (127 mg), and the mixture was stirred for 15 minutes under ice-cooling and then for 2 hours at ambient temperature. Water was added to the reaction mixture, and extracted with chloroform. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash chromatography (chloroform:methanol=50:1, v/v) to give 4-benzyloxy-1-methyl-2-dimethylamino-1H-benzimidazole (100 mg).

reactant | 4-benzyloxy-1-methyl-2-methylamino-1H-benzimidazole | 200 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(=NC21)NC)C | C16H17N3O
reactant | sodium hydride | 32.9 mg | [H-].[Na+]
reactant | methyl iodide | 127 mg | CI | CH3I
reactant | Water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxy-1-methyl-2-dimethylamino-1H-benzimidazole | 100 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(=NC21)N(C)C)C | C17H19N3O
